US08440689B2
(R)-Methyl 6-(2-(tert-butoxycarbonylamino)-3-methoxypropylamino)-4-cyano-2-(1-methyl-1H-pyrazol-4-yl)nicotinate
To a screw-top vial was added methyl 6-chloro-4-cyano-2-(1-methyl-1H-pyrazol-4-yl)nicotinate (115 mg, 0.416 mmol), (R)-tert-butyl 1-amino-3-methoxypropan-2-ylcarbamate (93 mg, 0.457 mmol), and DIPEA (87 μL, 0.499 mmol) in DMF (308 μL). The resulting yellow solution was stirred for 12 h at 45° C. and then at 50° C. for 6 h. The reaction mixture was diluted with EtOAc (20 mL) and was washed with water (10 mL) and brine (20 mL). The organic layer was collected and dried over Na2SO4 and was concentrated to a yellow oil. The concentrate was purified via standard phase column chromatography eluting with EtOAc and hexanes (50-100% EtOAc gradient) to give the title compound as a light yellow residue (36.5 mg, 20%). [M+H] calc'd for C21H28N6O5, 445. found, 445.

reactant | methyl 6-chloro-4-cyano-2-(1-methyl-1H-pyrazol-4-yl)nicotinate | 0.416 mmol, 115 mg | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)C=1C=NN(C1)C | C12H9ClN4O2
reactant | (R)-tert-butyl 1-amino-3-methoxypropan-2-ylcarbamate | 0.457 mmol, 93 mg | NC[C@H](COC)NC(OC(C)(C)C)=O | C9H20N2O3
reactant | DIPEA | 0.499 mmol, 87 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 308 μL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (R)-Methyl 6-(2-(tert-butoxycarbonylamino)-3-methoxypropylamino)-4-cyano-2-(1-methyl-1H-pyrazol-4-yl)nicotinate | C(C)(C)(C)OC(=O)N[C@H](CNC1=NC(=C(C(=O)OC)C(=C1)C#N)C=1C=NN(C1)C)COC | C21H28N6O5
